US06117875
A mixture of 3-nitrostyrene (5.36 ml), 3,5-dibromopyridine (10.0 g), palladium(II) acetate (259 mg), tetra-n-butylammonium chloride (10.7 g) and sodium bicarbonate (8.07 g) in N,N-dimethylformamide (50 ml) was stirred at 120pbC. for 4 hours. The mixture was poured into sodium bicarbonate solution and extracted with ethyl acetate twice. The combined organic solution was washed with sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated. The resultant solid was washed with diisopropyl ether to give 3-bromo-5-[(E)-2-(3-nitrophenyl)vinyl]pyridine (5.74 g).

reactant | 3-nitrostyrene | 5.36 ml | [N+](=O)([O-])C=1C=C(C=C)C=CC1 | C8H7NO2
reactant | 3,5-dibromopyridine | 10.0 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | sodium bicarbonate | 8.07 g | C([O-])(O)=O.[Na+]
catalyst | tetra-n-butylammonium chloride | 10.7 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | palladium(II) acetate | 259 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-bromo-5-[(E)-2-(3-nitrophenyl)vinyl]pyridine | 5.74 g | BrC=1C=NC=C(C1)\C=C\C1=CC(=CC=C1)[N+](=O)[O-] | C13H9BrN2O2
